US09062028B2
Step F. 1-(5-(1-(3-(Aminomethyl)benzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one
The title compound was prepared using a procedure analogous to 14543-(aminomethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one except that tert-butyl 3-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzylcarbamate was replaced with tert-butyl 3-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)benzylcarbamate. LCMS, [M+H]+=509.4.

reactant | 4-(2,3-dimethylphenoxy)butan-1-one | CC1=C(OCCCC=O)C=CC=C1C | C12H16O2
reactant | tert-butyl 3-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzylcarbamate | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=C(CNC(OC(C)(C)C)=O)C=CC2)C=CC=C1C | C33H40N2O4
reactant | tert-butyl 3-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)benzylcarbamate | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CC=2C=C(CNC(OC(C)(C)C)=O)C=CC2)C=CC=C1C | C37H44N4O4
product | 1-(5-(1-(3-(Aminomethyl)benzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | NCC=1C=C(CN2N=CC(=C2)C2=C3CCCN(C3=CC=C2)C(CCCOC2=C(C(=CC=C2)C)C)=O)C=CC1 | C32H36N4O2
